US07923450B2
b) 4-(2,4-Dimethyl-thiazol-5-yl)-3-methoxy-phenylamine
A suspension of 5-(2-methoxy-4-nitro-phenyl)-2,4-dimethyl-thiazole (415 mg, 1.6 mmol) and anhydrous stannous chloride (1.52 g, 7.9 mmol) in ethanol (25 mL) was stirred at reflux for 3 hours. The yellow solution was evaporated and the residue dissolved in ethyl acetate. This solution was washed with 1N aqueous sodium hydroxide solution, twice with water, with brine, dried with magnesium sulfate and the solvent was evaporated to dryness. Column chromatography (50 g silica, heptane/ethyl acetate 30-60% v/v) afforded the title compound (276 mg, 75%) as a pale yellow solid. MS ISP (m/e): 235.2 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.04 (d, 1H), 6.31 (m, 2H), 3.80 (s broad, 2H), 3.78 (s, 3H), 2.66 (s, 3H), 2.29 (s, 3H). mp 112-115° C.

reactant | 5-(2-methoxy-4-nitro-phenyl)-2,4-dimethyl-thiazole | 1.6 mmol, 415 mg | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(N=C(S1)C)C | C12H12N2O3S
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(2,4-Dimethyl-thiazol-5-yl)-3-methoxy-phenylamine | 276 mg, 75% | CC=1SC(=C(N1)C)C1=C(C=C(C=C1)N)OC | C12H14N2OS
